US08008483B2
d) Preparation of N-[(4-chlorophenyl)methyl]-1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-4-piperidinecarboxamide
A mixture of 1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid (80.0 mg, 0.255 mmol), 4-chlorobenzylamine (32.0 mg, 0.255 mmol), EDCI (49.0 mg, 0.255 mmol), HOBt (35.0 mg, 0.255 mmol) and N-methylmorpholine (26.0 mg, 0.255 mmol) in CH2Cl2 (5 mL) was stirred for 20 h (reaction progress monitored by LCMS). The solvent was removed under vacuum, and the residue was purified by preparative HPLC to yield 75 mg of the title compound as a white solid. MS (ES+): m/e 437.1 [M+H]+.

reactant | 1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid | 0.255 mmol, 80.0 mg | CNC1=NC(=NC(=N1)C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C16H19N5O2
reactant | 4-chlorobenzylamine | 0.255 mmol, 32.0 mg | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | EDCI | 0.255 mmol, 49.0 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.255 mmol, 35.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.255 mmol, 26.0 mg | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[(4-chlorophenyl)methyl]-1-[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]-4-piperidinecarboxamide | 75 mg | ClC1=CC=C(C=C1)CNC(=O)C1CCN(CC1)C1=NC(=NC(=N1)NC)C1=CC=CC=C1 | C23H25ClN6O
